US09447086B2
(S)-4-[(R)-6-(2-Chloro-3-fluoro-phenyl)-5-ethoxycarbonyl-2-(1-methyl-1H-imidazol-2-yl)-3,6-dihydro-pyrimidin-4-ylmethyl]-morpholine-3-carboxylic acid
The title compound was prepared in analogy to Example 2 with Procedure B shown in Scheme 5 by using 2-chloro-3-fluoro-benzaldehyde, ethyl acetoacetate, 1-methyl-1H-imidazole-2-carbonitrile and (S)-morpholine-3-carboxylic acid instead of 2-chloro-4-fluoro-benzaldehyde, methyl acetoacetate, thiazole-2-carbonitrile and (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid. The stereochemistry of Example 97 was determined by comparing its 1H NMR data and HPLC retention time with Example 2.

reactant | 2-chloro-3-fluoro-benzaldehyde | ClC1=C(C=O)C=CC=C1F | C7H4ClFO
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-methyl-1H-imidazole-2-carbonitrile | CN1C(=NC=C1)C#N | C5H5N3
reactant | (S)-morpholine-3-carboxylic acid | N1[C@@H](COCC1)C(=O)O | C5H9NO3
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | thiazole-2-carbonitrile | S1C(=NC=C1)C#N | C4H2N2S
reactant | (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid | FC1(C[C@H](NC1)C(=O)O)F | C5H7F2NO2
product | (S)-4-[(R)-6-(2-Chloro-3-fluoro-phenyl)-5-ethoxycarbonyl-2-(1-methyl-1H-imidazol-2-yl)-3,6-dihydro-pyrimidin-4-ylmethyl]-morpholine-3-carboxylic acid | ClC1=C(C=CC=C1F)[C@H]1C(=C(NC(=N1)C=1N(C=CN1)C)CN1[C@@H](COCC1)C(=O)O)C(=O)OCC | C23H25ClFN5O5
